datasets/RMG-dataset.csv
rxn,Ea
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[c:15]1[c:16]([H:21])[c:17]([H:22])[c:18]([H:23])[c:19]([H:24])[c:20]1[H:25]>>[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:8])[H:9].[H:7][c:15]1[c:16]([H:21])[c:17]([H:22])[c:18]([H:23])[c:19]([H:24])[c:20]1[H:25],-3.3472
[C:0](=[C:1][S:2][H:5])([H:3])[H:4].[C:6]([C:7]([H:11])([H:12])[H:13])([H:8])([H:9])[H:10]>>[C:0](=[C:1]([S:2][H:5])[H:8])([H:3])[H:4].[C:6]([C:7]([H:11])([H:12])[H:13])([H:9])[H:10],16.3176
[C:0]([C:1]([C:2]([C:3]([C:4](=[O:5])[H:16])([H:14])[H:15])([H:12])[H:13])([O:6][O:7][H:17])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([C:3]([C:4](=[O:5])[H:16])([H:14])[H:15])([H:12])[H:13])([O:6])[H:11])([H:8])([H:9])[H:10].[O:7][H:17],178.2384
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:15])([H:13])[H:14])([O:6][O:7][H:16])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1](=[C:2]([C:3]([O:4][O:5][H:15])([H:13])[H:14])[H:12])[H:11])([H:8])([H:9])[H:10].[O:6][O:7][H:16],64.1185448
[C:0]([C:1]([C:2]([C:3]([O:4][O:5])([H:15])[H:16])([C:6]([O:7][O:8][H:19])([H:17])[H:18])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:12])([H:15])[H:16])([C:6]([O:7][O:8][H:19])([H:17])[H:18])[H:14])[H:13])([H:9])([H:10])[H:11],76.1488
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:9])[H:8].[C:16]([C:17]([c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])[H:27])([H:24])([H:25])[H:26]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:9])[C:17]([C:16]([H:24])([H:25])[H:26])([c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])[H:27])[H:8],22.3426
[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][H:6]>>[C:0](#[C:1][C:2](=[S:3])[H:6])[H:4].[H:5],1.29704
[O:0]([C:1]([S:2])([H:4])[H:5])[H:3]>>[H:4].[O:0]([C:1](=[S:2])[H:5])[H:3],144.68272
[C:0](#[C:1][C:2]([C:3]([H:14])([H:15])[H:16])[C:4]([C:5]([C:6]([C:7]([C:8](=[C:9]([H:24])[H:25])[H:23])=[C:10]([C:11]([H:26])([H:27])[H:28])[C:12]([H:29])([H:30])[H:31])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])[H:13]>>[C:0](#[C:1][C:2]1([C:3]([H:14])([H:15])[H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([C:8](=[C:9]([H:24])[H:25])[H:23])[C:10]1([C:11]([H:26])([H:27])[H:28])[C:12]([H:29])([H:30])[H:31])[H:13],54.3083
[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([C:6]([C:7]([H:19])([H:20])[H:21])[C:8]([H:22])([H:23])[H:24])[H:18])[H:17])([H:15])[H:16])=[C:9]([C:10]([H:25])([H:26])[H:27])[C:11]([H:28])([H:29])[H:30])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]1[C:3]([H:15])([H:16])[C:4]([H:17])=[C:5]([H:18])[C:6]([C:7]([H:19])([H:20])[H:21])([C:8]([H:22])([H:23])[H:24])[C:9]1([C:10]([H:25])([H:26])[H:27])[C:11]([H:28])([H:29])[H:30])[H:14])([H:12])[H:13],96.2738
[C:0](=[C:1]([C:2]([C:3]([c:4]1[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]([H:19])[c:9]1[H:20])([H:14])[H:15])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2](=[C:3]([c:4]1[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]([H:19])[c:9]1[H:20])[H:15])[H:13])[H:12])([H:10])[H:11].[H:14],161.62
[C:0](#[C:1][C:2]([C:3]#[C:4][H:10])=[C:5]([C:6]([H:11])([H:12])[H:13])[C:7](=[C:8]([H:15])[H:16])[H:14])[H:9].[H:17]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:10])[C:5]([C:6]([H:11])([H:12])[H:13])([C:7](=[C:8]([H:15])[H:16])[H:14])[H:17])[H:9],6.19232
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[C:14]([C:15]([C:16]([H:22])([H:23])[H:24])([C:17]([H:25])([H:26])[H:27])[H:21])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[H:21])[H:7])([H:5])[H:6].[C:14]([C:15]([C:16]([H:22])([H:23])[H:24])[C:17]([H:25])([H:26])[H:27])([H:18])([H:19])[H:20],62.3416
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])[H:6].[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[C:16]([H:23])([H:24])[H:25])([H:17])([H:18])[H:19]>>[C:0](=[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[C:14]([C:13]([H:17])([H:18])[H:19])([C:15]([H:20])([H:21])[H:22])[C:16]([H:23])([H:24])[H:25])([H:5])[H:6],22.7191
[C:0]([O:1][C:2]([C:3]([H:8])([H:9])[H:10])=[O:4])([H:5])([H:6])[H:7].[O:11][O:12][H:13]>>[C:0]([O:1][C:2]([C:3]([H:8])([H:9])[H:10])=[O:4])([H:6])[H:7].[H:5][O:11][O:12][H:13],69.83096
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[C:13]([C:14]([C:15](=[S:16])[H:21])[H:20])([H:17])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:14]([C:13]([H:17])([H:18])[H:19])([C:15](=[S:16])[H:21])[H:20],51.4632
[C:0]1([H:7])[C:1]([H:8])=[C:2]([H:9])[C:3]([H:10])=[C:4]([H:11])[C:5]([H:12])=[C:6]1[H:13]>>[C:0]1([H:7])[C:1]([H:8])([H:12])[C:2]([H:9])=[C:3]([H:10])[C:4]([H:11])=[C:5]=[C:6]1[H:13],259.91008
